US07482350B2
Step 2. Preparation of 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methoxy-6-methylpyrimidine
A mixture containing 2-chloro-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methoxy-6-methylpyrimidine (˜3.91 mmol), 2,6-dimethylphenylboronic acid (1.17 g, 7.82 mmol), 15.6 mL of 1 M aqueous sodium carbonate and dioxane (56 mL) is degassed by bubbling with argon for 20 min. To this mixture is added Pd(PPh3)4 (226 mg, 0.05 mol %). The resulting yellow mixture is heated at 90° C. under nitrogen with magnetic stirring for 24 h. Another 50 mg of Pd(PPh3)4 is added and heating is continued for another 18 h until the reaction is complete by LC/MS analysis. The reaction mixture is allowed to cool to ambient temperature and partitioned between EtOAc (200 mL) and water (70 mL). The organic layer is separated, extracted with water (70 mL×2), brine (70 mL), dried over anhydrous sodium sulfate, filtered and evaporated to obtain a yellow oil. Purification by chromatography on silica gel (5-50% EtOAc/Hexanes) provides the title compound as a colorless solid. LC-MS found 391.4 (MH+), rt=1.93 min.

reactant | 2-chloro-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methoxy-6-methylpyrimidine | ˜3.91 mmol | ClC1=NC(=C(C(=N1)OC)COC1=C(C=CC(=C1)C(C)C)C)C | C17H21ClN2O2
reactant | 2,6-dimethylphenylboronic acid | 7.82 mmol, 1.17 g | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 1 M, 15.6 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 56 mL | O1CCOCC1 | C4H8O2
product | 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methoxy-6-methylpyrimidine | CC1=C(C(=CC=C1)C)C1=NC(=C(C(=N1)OC)COC1=C(C=CC(=C1)C(C)C)C)C | C25H30N2O2
